US08304539B2
Synthesis of 4-(3,3-difluoropyrrolidine-1-carbonyl)-3-fluorophenylboronic acid
A solution of 4-borono-2-fluorobenzoic acid (1.00 g, 5.44 mmol), N,N-diisopropylethylamine (2.85 mL, 16.31 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (2.163 g, 5.69 mmol) and 3,3-difluoropyrrolidine hydrochloride (1.00 g, 6.97 mmol) in DMF (6 mL) was stirred at room temperature for 22 h. Following addition of 1 N HCl (16 mL), the mixture was extracted with ethyl acetate (40 mL). HPLC analysis showed that the aqueous phase still contained product. The aqueous phase was neutralized to pH 7 with solid NaOH and K2CO3 and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated to give a thick brown oil. This residue was treated with equal volume of water. The white crystalline solid formed from the mixture was collected by filtration and washed with small amount of ether to give the desired product (0.7811 g). The filtrate was purified by reverse phase HPLC (Sunfire S10 30×250 mm column, 30-50% solvent B gradient) to give additional product (0.5632 g). The combined yield of the product was 1.344 g (91% yield). MS (ES+) m/z: 274 (M+H); LC retention time: 2.68 min (analytical HPLC Method A).

reactant | 4-borono-2-fluorobenzoic acid | 5.44 mmol, 1.00 g | B(O)(O)C1=CC(=C(C(=O)O)C=C1)F | C7H6BFO4
reactant | N,N-diisopropylethylamine | 16.31 mmol, 2.85 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.69 mmol, 2.163 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3,3-difluoropyrrolidine hydrochloride | 6.97 mmol, 1.00 g | Cl.FC1(CNCC1)F
reactant | HCl | 1 N, 16 mL | Cl | ClH
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3,3-difluoropyrrolidine-1-carbonyl)-3-fluorophenylboronic acid | 0.7811 g | FC1(CN(CC1)C(=O)C1=C(C=C(C=C1)B(O)O)F)F | C11H11BF3NO3
